US05254718
Synthesis of 2-methoxy-2-oxoethyl 2-hydroxy-2-methylpropionate
2-Chloroethyl 2-hydroxy-2-methylpropionate, prepared as described in Step 1 of Example 3a, (5.22 g, 31.3 mmol) and methyl glycolate (2.83 g, 31.4 mmol) in 125 mL of ethyl ether containing 0.125% tert-butylbenzene was added to 9.0 g Lipase P30 and the reaction mixture was agitated on an orbital shaker for 4d. The enzyme powder was removed by filtration, the solvent was removed, and a portion of the resulting residue was purified by flash chromatography (ethyl acetate:hexane, 20/80) to give the title compound as an oil: 1H NMR δ 1.51 (s, 6H), δ 3.14 (s, 1H), δ 3.78 (s, 3 H), δ 4.71 (s, 2H); 13C NMR 27.0, 52.1, 61.1, 72.1, 167.6, 176.4 ppm.

reactant | 2-Chloroethyl 2-hydroxy-2-methylpropionate | OC(C(=O)OCCCl)(C)C | C6H11ClO3
reactant | methyl glycolate | 31.4 mmol, 2.83 g | C(CO)(=O)OC | C3H6O3
reactant | ethyl ether | 125 mL | C(C)OCC | C4H10O
product | 2-methoxy-2-oxoethyl 2-hydroxy-2-methylpropionate | OC(C(=O)OCC(=O)OC)(C)C | C7H12O5
